US07105507B2
1,1-Dimethylethyl 2-Oxa-9-azaspiro[5.5]undecane-9-carboxylate
Diethyl diazenedicarboxylate (390 μL, 2.46 mmol) was added to a solution of 1,1-dimethylethyl 4-(hydroxymethyl)-4-(3-hydroxypropyl)-1-piperidinecarboxylate (Description 137, 560 mg, 2.05 mmol) and triphenylphosphine (646 mg, 2.46 mmol) in tetrahydrofuran (10 mL) and the mixture was stirred at room temperature for 24 hours. Further triphenylphosphine (646 mg, 2.46 mmol) and diethyl diazenedicarboxylate (390 μL, 2.46 mmol) were added and the mixture was stirred at room temperature for 24 hours. Methanol (5 mL) was added and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (75:25), to give the title compound (78 mg, 15%). m/z (ES+) 256 (M+1).

reactant | Diethyl diazenedicarboxylate | 2.46 mmol, 390 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 1,1-dimethylethyl 4-(hydroxymethyl)-4-(3-hydroxypropyl)-1-piperidinecarboxylate | 2.05 mmol, 560 mg | OCC1(CCN(CC1)C(=O)OC(C)(C)C)CCCO | C14H27NO4
reactant | triphenylphosphine | 2.46 mmol, 646 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 2.46 mmol, 646 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl diazenedicarboxylate | 2.46 mmol, 390 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | Methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 2-Oxa-9-azaspiro[5.5]undecane-9-carboxylate | 78 mg, 15% | C1OCCCC12CCN(CC2)C(=O)OC(C)(C)C | C14H25NO3
